US08202858B2
N-(4-Chloro-phenyl)-3-fluoro-N-methyl-4-(3-piperazin-1-yl-propoxy)-benzamide Dihydrochloride
4-(3-{4-[(4-Chloro-phenyl)-methyl-carbamoyl]-2-fluoro-phenoxy}-propyl)-piperazine-1-carboxylic acid tert-butyl ester from Example E71.1 (210 mg, 0.4 mmol) was dissolved in 4M HCl in dioxan (5 ml) and stirred for 1 h at room temperature. Solvents were concentrated in vacuo and azeotroped with toluene to yield the title compound (184 mg, 100%).

reactant | 4-(3-{4-[(4-Chloro-phenyl)-methyl-carbamoyl]-2-fluoro-phenoxy}-propyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(N(C)C1=CC=C(C=C1)Cl)=O)F | C26H33ClFN3O4
solvent | HCl | 4M | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | N-(4-Chloro-phenyl)-3-fluoro-N-methyl-4-(3-piperazin-1-yl-propoxy)-benzamide Dihydrochloride | 184 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)N(C(C1=CC(=C(C=C1)OCCCN1CCNCC1)F)=O)C | InChI=1S/C21H25ClFN3O2.2ClH/c1-25(18-6-4-17(22)5-7-18)21(27)16-3-8-20(19(23)15-16)28-14-2-11-26-12-9-24-10-13-26;;/h3-8,15,24H,2,9-14H2,1H3;2*1H
